US08865748B2
Preparation of 5-(3-fluorophenyl)-3-chloro-2-cyanopyridine (8):
To a 100 mL round bottom flask that is adapted for magnetic stirring and equipped with a nitrogen inlet is charged (3-fluorophenyl)boronic acid (4.48 g, 32 mmol), 3,5-dichloro-2-cyanopyridine (5.8 g, 34 mmol), K2CO3 (5.5 g, 40 mmol), [1,1′-bis(diphenyphosphino)ferrocene]dichloro-palladium(II) [PdCl2(dppf)] (0.1 g, 0.13 mmol), dimethylformamide (50 mL) and water (5 mL). The reaction solution is agitated and heated to 45° C. and held at that temperature for 18 hours after which the completeness of the reaction can be determined by the absence of the starting material 3,5-dichloro-2-cyanopyridine via TLC using ethyl acetate/methanol (4:1) as the mobile phase and UV 435 nm to visualize any remaining starting material. The reaction solution is then cooled to room temperature and the contents partitioned between ethyl acetate (250 mL) and saturated aqueous NaCl (100 mL). The organic phase is isolated and washed a second time with saturated aqueous NaCl (100 mL). The organic phase is dried for 4 hours over MgSO4, the MgSO4 is removed by filtration and the solvent is removed under reduced pressure. The residue that remains is then slurried in methanol (50 mL) at room temperature for 20 hours. The resulting solid is collected by filtration and washed with cold methanol (50 mL) then hexanes (60 mL) and dried to afford desired product.

reactant | (3-fluorophenyl)boronic acid | 32 mmol, 4.48 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | 3,5-dichloro-2-cyanopyridine | 34 mmol, 5.8 g | ClC=1C(=NC=C(C1)Cl)C#N | C6H2Cl2N2
reactant | K2CO3 | 40 mmol, 5.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenyphosphino)ferrocene]dichloro-palladium(II) | 0.13 mmol, 0.1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | water | 5 mL | O | H2O
product | 5-(3-fluorophenyl)-3-chloro-2-cyanopyridine | FC=1C=C(C=CC1)C=1C=C(C(=NC1)C#N)Cl | C12H6ClFN2
